US05292452
A mixture of 0.46 g of 5-chloromethyl-2-(3,4-difluorophenyl)pyridine, 0.6 g of triphenylphosphine and 10 ml of xylene was heated to boiling for 24 hours. After cooling the precipitate was filtered off, washed with toluene and dried. There was obtained 0.48 g of colourless [2-(3,4-difluorophenyl)-5-pyridyl]methyltriphenylphosphonium chloride, m.p. 259°-260.5° C.

reactant | 5-chloromethyl-2-(3,4-difluorophenyl)pyridine | 0.46 g | ClCC=1C=CC(=NC1)C1=CC(=C(C=C1)F)F | C12H8ClF2N
reactant | triphenylphosphine | 0.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | [2-(3,4-difluorophenyl)-5-pyridyl]methyltriphenylphosphonium chloride | 0.48 g | [Cl-].FC=1C=C(C=CC1F)C1=NC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H23F2NP.ClH/c31-28-18-17-24(20-29(28)32)30-19-16-23(21-33-30)22-34(25-10-4-1-5-11-25,26-12-6-2-7-13-26)27-14-8-3-9-15-27;/h1-21H,22H2;1H/q+1;/p-1
